US07273868B2
To a chloroform solution 2 ml of 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-benzylthiopyrimidine (prepared in the above (4)) 104 mg is dropped a solution of m-chloroperbenzoic acid 43 mg in chloroform 3 ml over a period of 20 minutes on an ice bath, and the mixture is stirred for 1 hour. The reaction mixture is diluted with an aqueous saturated sodium hydrogen carbonate and extracted with ethyl acetate. The organic layer is washed, dried and concentrated in vacuo to give 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-benzylsulfinylpyrimidine as a slightly yellow caramel.

reactant | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-benzylthiopyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CC=3N(CC2)C=CN3)SCC3=CC=CC=C3)C=CC1OC | C27H27ClN6O3S
reactant | m-chloroperbenzoic acid | 43 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(3-chloro-4-methoxybenzylamino)-5-methoxycarbonyl-6-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrazin-7-yl)-2-benzylsulfinylpyrimidine | ClC=1C=C(CNC2=NC(=NC(=C2C(=O)OC)N2CC=3N(CC2)C=CN3)S(=O)CC3=CC=CC=C3)C=CC1OC | C27H27ClN6O4S
